** sch_path: /home/eprempeh/ttsky-zed-Analog/xschem/testbench.sch
**.subckt testbench s r vdd q qb
*.ipin s
*.ipin r
*.iopin vdd
*.opin q
*.opin qb
x1 net1 s qb q vss r sr_latch
V1 vdd GND 1.8
V2 s GND PULSE(0 1.8 10n 1n 1n 40n 400n)
V3 r GND PULSE(0 1.8 110n 1n 1n 40n 400n)
V4 vss GND 0
R1 pin_out1 qb 500
C1 pin_out1 GND 0.5p
Vmeas vdd net1 0
.save i(vmeas)
R2 pin_out2 q 500
C2 pin_out2 GND 0.5p
x2 s q r qb vss net2 sr_latch_parax
R3 pin_out1_parax qb 500
C3 pin_out1_parax GND 0.5p
Vmeas1 vdd net2 0
.save i(vmeas1)
R4 pin_out2_parax q 500
C4 pin_out2_parax GND 0.5p
**** begin user architecture code

** opencircuitdesign pdks install
.lib /home/eprempeh/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice tt




* ngspice commands
.option savecurrents

.control
save all
tran 10n 1u
write testbench.raw
.endc
.end


**** end user architecture code
**.ends

* expanding   symbol:  sr_latch.sym # of pins=6
** sym_path: /home/eprempeh/ttsky-zed-Analog/xschem/sr_latch.sym
** sch_path: /home/eprempeh/ttsky-zed-Analog/xschem/sr_latch.sch
.subckt sr_latch vdd s qb q vss r
*.ipin s
*.ipin r
*.opin qb
*.opin q
*.iopin vss
*.iopin vdd
x1 vdd s q qb vss nor_gate
x2 vdd q qb r vss nor_gate
.ends


* expanding   symbol:  sr_latch_parax.sym # of pins=6
** sym_path: /home/eprempeh/ttsky-zed-Analog/xschem/sr_latch.sym
.include /home/eprempeh/ttsky-zed-Analog/mag/sr_latch.sim.spice

* expanding   symbol:  nor_gate.sym # of pins=5
** sym_path: /home/eprempeh/ttsky-zed-Analog/xschem/nor_gate.sym
** sch_path: /home/eprempeh/ttsky-zed-Analog/xschem/nor_gate.sch
.subckt nor_gate vdd a y b vss
*.ipin a
*.ipin b
*.opin y
*.iopin vdd
*.iopin vss
XM1 net1 a vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM2 y b net1 vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM3 y a vss vss sky130_fd_pr__nfet_01v8 L=0.15 W=0.75 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM4 y b vss vss sky130_fd_pr__nfet_01v8 L=0.15 W=0.75 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
.ends

.GLOBAL GND
.end
